US04588732
5-(p-Ethoxycarbonylphenyl)-imidazo[1,5-a]pyridine (1.0 g) is dissolved in 26 ml of methylene chloride at -78° under nitrogen and 6.6 ml of diisobutylaluminum hydride in toluene (11.4 mmole) is added dropwise. After stirring for 1 hour, 1.5 ml of methanol is added, the cold bath is removed and 15 ml of water is added. The salts are filtered off, the organic phase is dried over sodium sulfate and evaporated to yield 5-(p-hydroxymethylphenyl)imidazo[1,5-a]pyridine, m.p. 137°-138°.

reactant | 5-(p-Ethoxycarbonylphenyl)-imidazo[1,5-a]pyridine | 1.0 g | C(C)OC(=O)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C16H14N2O2
reactant | diisobutylaluminum hydride | 6.6 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 11.4 mmole | C1(=CC=CC=C1)C | C7H8
reactant | methanol | 1.5 ml | CO | CH4O
solvent | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
product | 5-(p-hydroxymethylphenyl)imidazo[1,5-a]pyridine | OCC1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C14H12N2O
